US07217722B2
4-(5-Isoquinolylamino)-1-cyclohexanone
1,4-Cyclohexanedione monoethylene ketal (6.2 g), 5-amino-isoquinoline (4.3 g), and acetic acid (0.5 ml) were dissolved in methanol (50 ml), and a borane-pyridine complex (4.0 ml) was added dropwise to the solution at room temperature. The reaction mixture was stirred at room temperature for 18 hr, was then cooled to room temperature, and was concentrated. The residue was dissolved in acetic acid-water (1:1, 50 ml), and the mixture was then stirred at 80° C. for 3 hr. The reaction mixture was concentrated to remove a major part of acetic acid. A saturated aqueous sodium hydrogencarbonate solution was then added to the residue, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel [chloroform/methanol] to give the title compound (5.8 g).

reactant | 1,4-Cyclohexanedione monoethylene ketal | 6.2 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | 5-amino-isoquinoline | 4.3 g | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 50 ml | CO | CH4O
product | 4-(5-Isoquinolylamino)-1-cyclohexanone | 5.8 g | C1=NC=CC2=C(C=CC=C12)NC1CCC(CC1)=O | C15H16N2O
